US03992535
A solution of 0.9 gm (9 millimols) of 2-amino-thiazole and 0.78 gm (7.7 millimols) of triethylamine in 8 ml tetrahydrofuran was added dropwise at -40° C to a solution of 6.4 millimols of 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]1,2-thiazine-3-carboxylic acid chloride-1,1-dioxide, which was obtained by reacting 2.0 gm (6.4 millimols) of 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-1,1-dioxide with 4 ml of a solution (20%) of phosgene in toluene (7.7 millimols) in the presence of 0.78 gm (7.7 millimols) of triethylamine in 80 ml of tetrahydrofuran. The reaction mixture was warmed to room temperature over a period of 2 hours and afterwards stirred at room temperature for 36 hours. Ice water was then added to the mixture, and the aqueous mixture was extracted several times with ethylene chloride. The combined organic phases were evaporated, and the residue was refluxed with 2 N hydrochloricacid for 2 hours. After cooling, the mixture was extracted with ethylene chloride, the organic phase was evaporated, and the residue was purified by chromatography on silicagel, using chloroform/methanol (ratio by volume10:1) as the eluant. The eluates yielded 0.9 gm (35% of theory) of 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 248°-249° C (decomp.).

reactant | 2-amino-thiazole | 9 millimols, 0.9 gm | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 7.7 millimols, 0.78 gm | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]1,2-thiazine-3-carboxylic acid chloride-1,1-dioxide | 6.4 millimols | CN1S(C2=C(C(=C1C(=O)Cl)N1CCCC1)C=CC1=CC=CC=C12)(=O)=O | C18H17ClN2O3S
reactant | 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-1,1-dioxide | 6.4 millimols, 2.0 gm | CN1S(C2=C(C(=C1)N1CCCC1)C=CC1=CC=CC=C12)(=O)=O | C17H18N2O2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 7.7 millimols | C1(=CC=CC=C1)C | C7H8
reactant | triethylamine | 7.7 millimols, 0.78 gm | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 0.9 gm, 35% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=CN1 | C17H13N3O4S2
